US05599966
19. 2-(1-Naphthyl)ethyl 6-[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethylamino]hexanoate
According to method I (dimethylformamide, 2 hours at 90° C.) from 2-amino-1-(4-amino-3,5-dichlorophenyl)ethanol and {2-(1-naphthyl)ethyl}6-bromohexanoate. Working up by means of chromatography (ethyl acetate/methanol/triethylamine 16:2:1). Recrystallized as the free base from ethyl acetate. Melting point: 60°-61° C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2-amino-1-(4-amino-3,5-dichlorophenyl)ethanol | NCC(O)C1=CC(=C(C(=C1)Cl)N)Cl | C8H10Cl2N2O
reactant | {2-(1-naphthyl)ethyl}6-bromohexanoate | C1(=CC=CC2=CC=CC=C12)CCOC(CCCCCBr)=O | C18H21BrO2
solvent | ethyl acetate methanol triethylamine | C(C)(=O)OCC.CO.C(C)N(CC)CC
product | 2-(1-Naphthyl)ethyl 6-[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethylamino]hexanoate | NC1=C(C=C(C=C1Cl)C(CNCCCCCC(=O)OCCC1=CC=CC2=CC=CC=C12)O)Cl | C26H30Cl2N2O3
